US05514778
N-tert -Butyloxycarbonyl-L-valinyl-L-leucinyl-L-phenylalanine benzyl ester
A 500 mL round bottom flask was charged with 46.52 g (99 mmol) N-tert-Butyloxycarbonyl-L-leucinyl-L-phenylalanine benzyl ester, 340 mL anhydrous m ethylene chloride (CH2Cl2), and 51 mL trifluoroacetic acid (TFA). The mixture was stirred at room temperature under a nitrogen atmosphere for 3 hours, and then concentrated in vacuo. The residue was azeotroped twice with toluene, and carried on. The same 500 mL round bottom flask containing the crude TFA salt was placed under a nitrogen atmosphere and charged with 21.5 g (99 mmol) Boc-L-valine, 13.4 g (99 mmol) HOBT, and 270 mL anhydrous THF The solution was cooled in an ice/acetone bath and 21.4 a (104 mmol) DCC was added in one portion. The mixture was stirred in the cold for 1 hour, and then warmed to room temperature and stirred overnight. The precipitated DCU was filtered off, and the filtrate was concentrated in vacuo. The residue was taken up in ethyl acetate and washed once with water, once with a 10% solution off citric acid, once with saturated NaHCO3, and once with brine. The organic layer was then dried over Na2SO4, filtered, and concentrated in vacuo. The resultant solid was precipitated from ethanol with H2O to provide 41.96 g (75%) of the title compound.

reactant | N-tert-Butyloxycarbonyl-L-leucinyl-L-phenylalanine benzyl ester | 99 mmol, 46.52 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O)CC1=CC=CC=C1)=O | C27H36N2O5
reactant | trifluoroacetic acid | 51 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Boc-L-valine | 99 mmol, 21.5 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | HOBT | 99 mmol, 13.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 104 mmol | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 270 mL | C1CCOC1 | C4H8O
solvent | ethylene chloride | 340 mL | C(CCl)Cl | C2H4Cl2
product | N-tert -Butyloxycarbonyl-L-valinyl-L-leucinyl-L-phenylalanine benzyl ester | 41.96 g, 75% | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)CC(C)C)=O)CC1=CC=CC=C1)=O | C32H45N3O6
